* Pixel sensor testbench
**********************************************************************
**        Copyright (c) 2021 Carsten Wulff Software, Norway
** *******************************************************************
** Created       : wulff at 2021-7-22
** *******************************************************************
**  The MIT License (MIT)
**
**  Permission is hereby granted, free of charge, to any person obtaining a copy
**  of this software and associated documentation files (the "Software"), to deal
**  in the Software without restriction, including without limitation the rights
**  to use, copy, modify, merge, publish, distribute, sublicense, and/or sell
**  copies of the Software, and to permit persons to whom the Software is
**  furnished to do so, subject to the following conditions:
**
**  The above copyright notice and this permission notice shall be included in all
**  copies or substantial portions of the Software.
**
**  THE SOFTWARE IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS OR
**  IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF MERCHANTABILITY,
**  FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT. IN NO EVENT SHALL THE
**  AUTHORS OR COPYRIGHT HOLDERS BE LIABLE FOR ANY CLAIM, DAMAGES OR OTHER
**  LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE, ARISING FROM,
**  OUT OF OR IN CONNECTION WITH THE SOFTWARE OR THE USE OR OTHER DEALINGS IN THE
**  SOFTWARE.
**
**********************************************************************

*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
.include ../../models/ptm_130_ngspice.spi
.include ../../lib/SUN_TR_GF130N.spi

*----------------------------------------------------------------
* Options
*----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-6 abstol=1e-6


*evt. bruke pmos inn til data???
*-> Sikkert ikke nødvendig for våres del, men fint å ha hvis man ønsker å brife litt?

VDD VDD VSS dc 1.5
VSS VSS 0 dc 0
VCOMP COMP VSS dc 0 PULSE(0, 1.5, 0, 10n, 10n, 30u, 60u, 0)
VIO IO VSS dc 0 PULSE(0, 1.5, 0, 10n, 10n, 29u, 60u, 0)
*VIO IO VSS dc 0 PULSE(0, 1.5, 0, 10n, 10n, 31u, 60u, 0) DATA lav i det comparatoren "flipper"
VREAD READ VSS dc 0 PULSE(0, 1.5, 40u, 10n, 10n, 5u, 60u)

M4 DATA IO VDD VDD pmos w=0.5u  l=0.5u

**----------------------------------------------------------------
** DUT
*----------------------------------------------------------------
.include cameraCircuit.cir
XDUT COMP DATA READ VSS MEMCELL

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------

.control
set color0=white
set color1=black
unset askquit
tran 1n 60u

plot V(COMP) V(READ) V(DATA)


plot v(xdut.dmem) v(xdut.vg)
.endc
.end